US07795437B2
trans-[4-(2-Oxo-ethyl)-cyclohexyl]-carbamic acid tert-butyl ester
To a solution of trans-(4-tert-butoxycarbonylamino-cyclohexyl)-acetic acid ethyl ester (1.04 g, 4 mmol), in toluene (10 mL) at −78° C. a 1.2 M solution of diisobutylaluminium hydride (DIBAL-H) (5.1 mL, 6 mmol) in toluene was added. The mixture was stirred at −78° C. until TLC after 0.5 h indicated completion of the reaction. Water was added and the solution was extracted three times with dichloromethane. The combined organic layers were washed with water and brine, dried over magnesium sulfate, filtered and evaporated. The crude product was used without purification on the next step. MS (m/e): 242.3 (M+H+).

reactant | trans-(4-tert-butoxycarbonylamino-cyclohexyl)-acetic acid ethyl ester | 4 mmol, 1.04 g | C(C)OC(C[C@@H]1CC[C@H](CC1)NC(=O)OC(C)(C)C)=O | C15H27NO4
reactant | diisobutylaluminium hydride | 6 mmol, 5.1 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | Water | O | H2O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | trans-[4-(2-Oxo-ethyl)-cyclohexyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)CC=O)=O | C13H23NO3
